US08138197B2
Production of 1′-{[2-Methoxy-6-phenylpyridin-4-yl]carbonyl}-6-(tetrazol-5-yl)spiro[chroman-2,4′-piperidin]-4-one
6-(Tetrazol-5-yl)spiro[chroman-2,4′-piperidin]-4-one hydrochloride (42 mg), 1-hydroxybenzotriazole monohydrate (20 mg), 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride (25 mg), triethylamine (21 μL) and water (1 mL) were added in that order to a DMF (3 mL) solution of 2-methoxy-6-phenyl-isonicotinic acid (25 mg), and stirred at room temperature for 2 hours. Water was added to the reaction liquid, the formed precipitate was taken out through filtration, washed with water, and dried to obtain the title compound as a white solid. 1H-NMR (400 MHz, DMSO-d6) δ: 8.41 (1.0H, d, J=2.0 Hz), 8.23 (1.0H, dd, J=8.6, 2.4 Hz), 8.13 (2.0H, d, J=6.8 Hz), 7.57 (1.0H, br s), 7.51-7.44 (3.0H, m), 7.32 (1.0H, d, J=8.6 Hz), 6.78 (1.0H, br s), 4.31-4.27 (1.0H, m), 3.97 (3.0H, s), 3.40-3.20 (3.0H, m), 2.97 (2.0H, s), 2.10-2.05 (1.0H, m), 1.90-1.83 (3.0H, m). MS [M−H]−=495.

reactant | 6-(Tetrazol-5-yl)spiro[chroman-2,4′-piperidin]-4-one hydrochloride | 42 mg | Cl.N1N=NN=C1C=1C=C2C(CC3(CCNCC3)OC2=CC1)=O
reactant | 1-hydroxybenzotriazole monohydrate | 20 mg | O.ON1N=NC2=C1C=CC=C2
reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride | 25 mg | Cl.CN(CCCN=C=NCC)C
reactant | 2-methoxy-6-phenyl-isonicotinic acid | 25 mg | COC=1C=C(C(=O)O)C=C(N1)C1=CC=CC=C1 | C13H11NO3
solvent | Water | O | H2O
solvent | DMF | 3 mL | CN(C)C=O | C3H7NO
solvent | water | 1 mL | O | H2O
solvent | triethylamine | 21 μL | C(C)N(CC)CC | C6H15N
product | 1′-{[2-Methoxy-6-phenylpyridin-4-yl]carbonyl}-6-(tetrazol-5-yl)spiro[chroman-2,4′-piperidin]-4-one | COC1=NC(=CC(=C1)C(=O)N1CCC2(CC1)OC1=CC=C(C=C1C(C2)=O)C2=NN=NN2)C2=CC=CC=C2 | C27H24N6O4
